US04642308
The procedure is similar to that described in Example 1, but starting with 3-methoxybenzoic acid (9.1 g), N,N'-carbonyldiimidazole (9.7 g) and 2-amino-7-methoxy-1,8-naphthyridine (7 g). The product produced by precipitation in water (13 g; m.p. approximately 75° C.) is dissolved in 90 cc of boiling acetonitrile. After 3 hours' cooling at 4° C., the crystallised solid is separated by filtration, washed with acetonitrile (3×10 cc) and dried at 50° C. under reduced pressure (0.067 kPa). N-(7-methoxy-1,8-naphthyridin-2-yl)-3-methoxybenzamide (8.7 g) is produced, m.p. 135° C.).

reactant | 3-methoxybenzoic acid | 9.1 g | COC=1C=C(C(=O)O)C=CC1 | C8H8O3
reactant | 2-amino-7-methoxy-1,8-naphthyridine | 7 g | NC1=NC2=NC(=CC=C2C=C1)OC | C9H9N3O
solvent | water | 13 g | O | H2O
solvent | acetonitrile | 90 cc | C(C)#N | C2H3N
product | N-(7-methoxy-1,8-naphthyridin-2-yl)-3-methoxybenzamide | 8.7 g | COC1=CC=C2C=CC(=NC2=N1)NC(C1=CC(=CC=C1)OC)=O | C17H15N3O3
